US07645755B2
e) 2-Bromo-4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-phenylamine
To a suspension of 4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-phenylamine (as prepared in the previous step, 174 mg, 0.77 mmol) in 20 mL of 3:1 DCM/MeOH at 0° C. was added N-bromosuccinimide (NBS) (137 mg, 0.77 mmol) in 5 mL of DCM under Ar. The mixture was warmed to RT and stirred for 1 h under Ar. Treated with 100 mL of EtOAc, the mixture was washed with H2O (2×20 mL), brine (20 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (2-3% EtOAc/DCM) gave 155 mg (66%) of the title compound as a white solid. 1H-NMR (CDCl3; 400 MHz): δ 7.28 (d, 1H, J=2.0 Hz), 6.97 (dd, 1H, J=8.3, 2.0 Hz), 6.73 (d, 1H, J=8.3 Hz), 4.07 (br s, 2H), 3.09-3.14 (m, 4H), 2.66 (dddd, 1H, J=12.1, 12.1, 3.3, 3.3 Hz), 2.26-2.39 (m, 2H), 2.12-2.21 (m, 2H). Mass spectrum (ESI, m/z): Calcd. for C11H14BrNO2S, 304.0 (M+H), found 304.1.

reactant | 4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-phenylamine | O=S1(CCC(CC1)C1=CC=C(C=C1)N)=O | C11H15NO2S
reactant | N-bromosuccinimide | 0.77 mmol, 137 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DCM MeOH | 20 mL | C(Cl)Cl.CO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-phenylamine | 155 mg, 66% | BrC1=C(C=CC(=C1)C1CCS(CC1)(=O)=O)N | C11H14BrNO2S
